US08022209B2
Step B: Preparation of 4-(4-Methyl-piperazin-1-yl)-6-thiophen-2-yl-pyrimidine
To a solution of 4-chloro-6-thiophen-2-yl-pyrimidine (48 mg, 0.24 mmol) in ethanol (3 mL), was added 1-methylpiperazine (0.54 mL, 0.49 mmol). The resulting mixture was heated at 100° C. in a sealed tube for 2 h. The resulting mixture was concentrated and the resulting crude residue was purified by SiO2 chromatography (0-5% 2 M NH3 in MeOH/CH2Cl2) to yield the title compound.

reactant | 4-chloro-6-thiophen-2-yl-pyrimidine | 0.24 mmol, 48 mg | ClC1=NC=NC(=C1)C=1SC=CC1 | C8H5ClN2S
reactant | 1-methylpiperazine | 0.49 mmol, 0.54 mL | CN1CCNCC1 | C5H12N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(4-Methyl-piperazin-1-yl)-6-thiophen-2-yl-pyrimidine | CN1CCN(CC1)C1=NC=NC(=C1)C=1SC=CC1 | C13H16N4S
